US05134148
Using the procedure described in Example 1, 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one was reacted with 4-(3-hydroxyphenyl)-4-methoxy-2,2-dimethyltetrahydropyran to give 4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-4-methoxy-2,2-dimethyltetrahydropyran in 83% yield.

reactant | 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | 4-(3-hydroxyphenyl)-4-methoxy-2,2-dimethyltetrahydropyran | OC=1C=C(C=CC1)C1(CC(OCC1)(C)C)OC | C14H20O3
product | 4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-4-methoxy-2,2-dimethyltetrahydropyran | 83% yield | CN1C(C=CC2=CC(=CC=C12)COC=1C=C(C=CC1)C1(CC(OCC1)(C)C)OC)=O | C25H29NO4
